US05294612
A mixture of 2-chloro-4-cyanopyridine (4.0 g, 28.9 mmol), imidazole (7.9 g, 115 mmol) and N-methyl-2-pyrrolidinone (50 ml) was heated at 150° C. for 58 hours. The solvent was removed by distillation and the residue was partitioned between chloroform and water. The organic layer was separated and the aqueous layer was extracted with chloroform (2×100 ml). The organic layers were combined and the solvent was removed in vacuo. The residue was triturated with ether and a solid was collected by filtration. The solid residue was purified by column chromatography eluting with hexanes/acetone (1/1) to afford 1.2 g (24%) of 2-(1-imidazolyl)-4-cyanopyridine as a tan solid, m.p. 146°-147° C.

reactant | 2-chloro-4-cyanopyridine | 28.9 mmol, 4.0 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | imidazole | 115 mmol, 7.9 g | N1C=NC=C1 | C3H4N2
solvent | N-methyl-2-pyrrolidinone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(1-imidazolyl)-4-cyanopyridine | 1.2 g, 24% | N1(C=NC=C1)C1=NC=CC(=C1)C#N | C9H6N4
